US08304425B2
A solution of 2-chloro-1-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-ethanone (5.04 g, 21.6 mmol) and sodium azide (1.47 g, 22.7 mmol) in DMF (20 mL) was shaken for 16 h at room temperature. Water (200 mL) and ethyl acetate (200 mL) were added. The ethyl acetate layer was separated and washed twice with water (200 mL), dried over Na2SO4, filtered and concentrated. The residue was purified by flash column chromatography (SiO2, neat DCM), to yield 2-azido-1-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-ethanone as an off-white solid (4.70 g, 90%). M.p.=92-93° C.; 1H NMR (400 MHz, CDCl3) δ: 7.99 (d, J=8.0 Hz, 1H), 7.75 (s, 1H), 7.23 (m, 1H), 7.04 (d, J=7.6 Hz, 1H), 4.35 (s, 2H), 4.21 (t, J=5.6 Hz, 2H), 3.01 (t, J=6.4 Hz, 2H), 2.27 (m, 2H). LCMS: m/e 241.07 [M+H].

reactant | 2-chloro-1-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-ethanone | 21.6 mmol, 5.04 g | ClCC(=O)C1=CN2CCCC3=CC=CC1=C23 | C13H12ClNO
reactant | sodium azide | 22.7 mmol, 1.47 g | [N-]=[N+]=[N-].[Na+]
reactant | Water | 200 mL | O | H2O
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-azido-1-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-ethanone | 4.70 g, 90% | N(=[N+]=[N-])CC(=O)C1=CN2CCCC3=CC=CC1=C23 | C13H12N4O
